US07807691B2
N-(4-Bromo-3-chloro-2-methyl-phenyl)-acetamide
Dissolve N-(3-chloro-2-methyl-phenyl)-acetamide (120.0 g, 0.653 mol) in acetic acid and cool to 0° C. Add bromine (313.3 g, 1.96 mol) dropwise over 30 min via an addition funnel. Stir for 17 h while allowing the reaction to warm to room temperature. Pour the reaction into 1 L of ice, and filter. Rinse the filter cake with 4 L of water. The title product is isolated in 93.6% yield (160.6 g) as a white solid. MS: MS (ESI−): 262 (M−1)−. MS (ESI+): 263 (M+1)+.

reactant | N-(3-chloro-2-methyl-phenyl)-acetamide | 0.653 mol, 120.0 g | ClC=1C(=C(C=CC1)NC(C)=O)C | C9H10ClNO
reactant | bromine | 1.96 mol, 313.3 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-Bromo-3-chloro-2-methyl-phenyl)-acetamide | 93.6% yield | BrC1=C(C(=C(C=C1)NC(C)=O)C)Cl | C9H9BrClNO
